US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-3-(2-(trifluoromethoxy)benzyloxy)propanoic acid, gave (S)-2-amino-N-(4-(4-fluorophenoxy)phenyl)-3-(2-(trifluoromethoxy)benzyloxy)propanamide (150 mg, 80%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-2-(tert-butoxycarbonylamino)-3-(2-(trifluoromethoxy)benzyloxy)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1=C(C=CC=C1)OC(F)(F)F | C16H20F3NO6
product | (S)-2-amino-N-(4-(4-fluorophenoxy)phenyl)-3-(2-(trifluoromethoxy)benzyloxy)propanamide | 150 mg, 80% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)COCC1=C(C=CC=C1)OC(F)(F)F | C23H20F4N2O4
